US04746671
A mixture of 4.3 parts of ethyl (E)-5-[[[(3-pyridinyl)[3-(trifluoromethyl)phenyl]methylen]amino]oxy]pentanoate, 25 parts of a sodium hydroxide solution 1N and 20 parts of ethanol was stirred for 2.5 hours at room temperature. 25 Parts of a hydrochloric acid solution 1N were added and the ethanol layer was evaporated. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2,2'-oxybispropane and hexane (2:1 by volume). The product was filtered off and dried, yielding 1.7 parts (42.2%) of (E)-5-[[[(3-pyridinyl)[3-(trifluoromethyl)phenyl]methylen]amino]oxy]pentanoic acid; mp. 70.3° C. (compound 63).

reactant | ethyl (E)-5-[[[(3-pyridinyl)[3-(trifluoromethyl)phenyl]methylen]amino]oxy]pentanoate | N1=CC(=CC=C1)\C(\C1=CC(=CC=C1)C(F)(F)F)=N\OCCCCC(=O)OCC | C20H21F3N2O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (E)-5-[[[(3-pyridinyl)[3-(trifluoromethyl)phenyl]methylen]amino]oxy]pentanoic acid | 42.2% | N1=CC(=CC=C1)\C(\C1=CC(=CC=C1)C(F)(F)F)=N\OCCCCC(=O)O | C18H17F3N2O3
